US07544835B2
Dimethyl 2-(3-{[(4-toluidinocarbonyl)oxy]-methyl}benzyl)malonate
Using dimethyl 2-[3-(hydroxymethyl)benzyl]malonate and p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(hydroxymethyl)benzyl]malonate | OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1 | C13H16O5
reactant | p-tolylisocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
product | Dimethyl 2-(3-{[(4-toluidinocarbonyl)oxy]-methyl}benzyl)malonate | C1(=CC=C(C=C1)NC(=O)OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1)C | C21H23NO6
